### PR TITLE
[Merged by Bors] - feat(Analysis): Taylor's theorem with the integral remainder

### PR DESCRIPTION
**Pull request by mcdoll**
Prove Taylor's theorem with the integral remainder in higher dimensions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/TaylorIntegral.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+variable [NormedSpace ℝ E] [NormedSpace ℝ F]
+
+variable {f : E → F} {x y : E} {n : ℕ}
+
+variable [CompleteSpace F]
+
+/-- *Taylor's theorem with remainder in integral form*.
+
+Version for higher dimensions. -/
+theorem add_eq_sum_add_integral_iteratedFDeriv (hf : ∀ (t : ℝ) (_ht : t ∈ Set.Icc 0 1),
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/TaylorIntegral.lean]:
```suggestion
theorem map_add_eq_sum_add_integral_iteratedFDeriv (hf : ∀ (t : ℝ) (_ht : t ∈ Set.Icc 0 1),
```
To insist that you're looking at `f (x + y)`? Same thing below.

File: Mathlib/Analysis/Calculus/TaylorIntegral.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+end NontriviallyNormedField
+
+variable [NormedSpace ℝ E] [NormedSpace ℝ F]
+
+variable {f : E → F} {x y : E} {n : ℕ}
+
+variable [CompleteSpace F]
+
+/-- *Taylor's theorem with remainder in integral form*.
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/TaylorIntegral.lean:66]: Could you recall the formula in the docstring? (Especially the fact that your parameter is `n+1`, not `n`)

File: Mathlib/Analysis/Calculus/TaylorIntegral.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+    have hv' : ContinuousOn (v (n + 1 + 1)) (Set.uIcc 0 1) := by
+      intro t ht
+      have h_cont : ContinuousAt (iteratedFDeriv ℝ (n + 1 + 1) f) (x + t • y) :=
+        ((hf t ht).iteratedFDeriv_right (i := n + 1 + 1) (m := 0) (by simp)).continuousAt
+      exact (h_cont.comp (x := t) (by fun_prop)).continuousWithinAt.eval_const _
+    -- Now we apply integration by parts and simplify
+    simpa [← eq_neg_add_iff_add_eq, ← intervalIntegral.integral_smul, smul_smul, u, v] using
+      intervalIntegral.integral_smul_deriv_eq_deriv_smul (fun t _ ↦ hu t) hv
+      (hu'.neg.intervalIntegrable _ _) hv'.intervalIntegrable
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/TaylorIntegral.lean]: I'd be happy to deduce from the above the version assuming `ContDiffOn f (closedBall x (||y||))`, but I don't think this will be straightforward (because under this assumption the function is not `ContDiffAt f (x+y)`). Do you see an easy way forward? (Maybe taking a limit of the previous lemma applied to (1-\epsilon)y)?

**Comment by j-loreaux** [comment]
@sgouezel I think the ball is in your court here.

**Comment by j-loreaux** [comment]
It's been two weeks, so I'll ping @sgouezel one more time.

File: Mathlib/Analysis/Calculus/TaylorIntegral.lean [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+variable {𝕜 E F : Type*}
+variable [NormedAddCommGroup E] [NormedAddCommGroup F]
+
+section NontriviallyNormedField
+
+variable [NontriviallyNormedField 𝕜] [NormedSpace 𝕜 E] [NormedSpace 𝕜 F]
+
+variable {f : E → F} {x y : E} {t : 𝕜} {n : ℕ}
+
+/-- The iterated derivative is given by the derivative of the `n-1` iterated derivative. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/TaylorIntegral.lean]: Could you move this one to another file? It doesn't seem specific to the Taylor formula

**Review by sgouezel — COMMENTED** [review]
sorry for the slow reaction. Yes, we can get this in if you add a todo, as this version will already be very useful. Could you move to the right files the lemma on differentiable functions, though?

**Comment by j-loreaux** [comment]
@mcdoll I don't think you actually added a TODO.

**Comment by mcdoll** [comment]
Sorry, added it. silly me

**Comment by j-loreaux** [comment]
bors merge

**Comment by mcdoll** [comment]
bors merge
